US05166212
The (S,S)-2,4-dibenzylglutaric anhydride [mp 172°-174°; [alpha]D =-19.1° (c=1 in CHCl3)] is prepared similarly by refluxing (S,S)-2,4-dibenzylglutaric acid in acetyl chloride for 3 hours, concentrating the mixture and recrystallizing from toluene.

reactant | (S,S)-2,4-dibenzylglutaric acid | C(C1=CC=CC=C1)[C@@H](C(=O)O)C[C@H](C(=O)O)CC1=CC=CC=C1 | C19H20O4
solvent | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (S,S)-2,4-dibenzylglutaric anhydride | C(C1=CC=CC=C1)[C@H]1C(=O)OC([C@@H](C1)CC1=CC=CC=C1)=O | C19H18O3
